US09422253B2
3-Amino-5,6-bis(4-methylphenyl)-1,2,4-triazine (2; R=4-Me) [CEN-126]
A stirred mixture of 4,4′-dimethylbenzil (2.38 g; 0.01 mol), aminoguanidine bismesylate (3.33 g; 0.0125 mol) and ethanol (10 cm3) was heated under reflux until no starting material remained (4 hrs) when a cream solid was deposited. The mixture was evaporated to half volume and basified with 880 ammonia+water (1:1; 4 cm3). On standing, bight yellow prisms were deposited. The product was filtered off, washed with ethanol+water (1:1) and dried in vacuo at 450.

reactant | 4,4′-dimethylbenzil | 0.01 mol, 2.38 g | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
reactant | aminoguanidine bismesylate | 0.0125 mol, 3.33 g | S(C)(=O)(=O)O.S(C)(=O)(=O)O.NNC(=N)N
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
product | 3-Amino-5,6-bis(4-methylphenyl)-1,2,4-triazine | NC=1N=NC(=C(N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C17H16N4
